US07557213B2
Step 1: 1-(4-Methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester
Experimental conditions analogous to those described for Step 3 of Example 1, from 03.00 g (13.8 mmol) of 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester, 0.66 g (16.6 mmol) of 60% sodium hydride, 2.60 g (16.6 mmol) of 4-methoxybenzyl chloride in 30 mL DMF to give 3.10 g of the product as an off-white solid.

reactant | 4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 13.8 mmol | C(C)OC(=O)C1=CNC2=CC=CC=C2C1=O | C12H11NO3
reactant | sodium hydride | 16.6 mmol, 0.66 g | [H-].[Na+]
reactant | 4-methoxybenzyl chloride | 16.6 mmol, 2.60 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-Methoxy-benzyl)-4-oxo-1,4-dihydro-quinoline-3-carboxylic acid ethyl ester | 3.10 g | C(C)OC(=O)C1=CN(C2=CC=CC=C2C1=O)CC1=CC=C(C=C1)OC | C20H19NO4
